US06838567B1
(R)-3-Chloro-2-pyrrolidinone (76.3 mg; optical purity 75.3% ee) was dissolved in 5 ml of 3.0 M sulfuric acid aqueous solution and the solution was stirred at 50° C. for 18 hours, then at 80° C. for 5 hours and finally at 90° C. for 3 hours. Without particularly isolating (R)-4-amino-2-chlorobutyric acid in the reaction solution, the reaction solution was neutralized with a 30% sodium hydroxide aqueous solution until a pH of 11, 805.4 mg of barium hydroxide octahydrate was added, and the solution was stirred with heating at 100° C. for 26 minutes. Without particularly isolating (S)-azetidine-2-carboxylic acid in the reaction solution, 6 N hydrochloric acid was added to the reaction solution to bring pH to 9.8. Then, 275.5 mg of sodium carbonate and 278.5 mg of di-tert-butyl dicarbonate were added, and the solution was stirred at room temperature for 16 hours. This was adjusted to pH 1.9 by addition of 6 N hydrochloric acid and then extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over sodium sulfate, and the solvent was distilled off to give (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (yield 71.7%, optical purity 67.9% ee). The yield was determined by using high performance liquid chromatography using highly pure (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid as a standard.

reactant | (R)-3-Chloro-2-pyrrolidinone | 76.3 mg | Cl[C@H]1C(NCC1)=O | C4H6ClNO
reactant | (R)-4-amino-2-chlorobutyric acid | NCC[C@H](C(=O)O)Cl | C4H8ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | barium hydroxide octahydrate | 805.4 mg, pH of 11 | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | (S)-azetidine-2-carboxylic acid | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium carbonate | 275.5 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 278.5 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sulfuric acid | 3.0 M, 5 ml | S(O)(O)(=O)=O | H2O4S
product | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | yield 71.7% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
